US09102591B2
5-Chloromethyl-2-trifluoromethylpyridine (19.5 g, 99.7 mmol) in ethanol (160 mL) was added to a solution of potassium cyanide (9.74 g, 150 mmol) in water (80 mL) at 90° C. over 30 minutes. The mixture was stirred at 90° C. for 3 hours. Most of the ethanol was removed under reduced pressure and the aqueous layer was extracted with AcOEt (3×100 mL). The combined organic extracts were washed with water, brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (30% AcOEt in hexanes) to afford (6-trifluoromethylpyridin-3-yl)-acetonitrile as a brown oil (9.79 g, 75%). 1H NMR (400 MHz, CDCl3) δ ppm 8.63 (s, 1 H), 7.90 (d, J=8.0 Hz, 1 H), 7.70 (d, J=8.0 Hz 1 H), 3.88 (s, 2 H). 19F NMR (400 MHz, CDCl3):168 cm−1. MS m/z 187.14

reactant | 5-Chloromethyl-2-trifluoromethylpyridine | 99.7 mmol, 19.5 g | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | potassium cyanide | 150 mmol, 9.74 g | [C-]#N.[K+]
solvent | ethanol | 160 mL | C(C)O | C2H6O
solvent | water | 80 mL | O | H2O
product | (6-trifluoromethylpyridin-3-yl)-acetonitrile | 9.79 g, 75% | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
